US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 5-phenyl-1-pentyne to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 32% yield: mp 94-97° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.12 (s, 1H), 7.38-7.18 (m, 10H), 6.14 (t, J=6.0 Hz, 1H), 4.62 (d, J=6.0 Hz, 2H), 2.81 (t, J=9.0 Hz, 2H), 2.79-2.68 (m, 5H), 2.09-2.04 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 160.9, 155.7, 153.3, 149.2, 141.5, 137.4, 128.9, 128.4, 128.3, 127.9, 127.8, 125.9, 123.9, 118.4, 44.3, 35.2, 30.6, 24.9, 17.4; MS (ES+) m/z 418.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 5-phenyl-1-pentyne | C1(=CC=CC=C1)CCCC#C | C11H12
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 32% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)CCCC1=CC=CC=C1)C | C23H23N5OS
